Name:  ___       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old male with no significant 
past medical history who presented to ___ ED on ___ with 
chest pain after drinking two cups coffee and smoking on ___. 
The pain was crampy and radiated to his left arm. The episode 
was associated with diaphoresis. He does not report alleviating 
nor exacerbating factors. Subsequently, the pain decreased in 
severity but did not remit. The patient decided to come to the 
ED due to concerns about his heart. 
 
Past Medical History:
None 
 
Social History:
___
Family History:
Denies family history of heart disease. 
 
Physical Exam:
============================
ADMISSION PHYSICAL EXAMINATION
============================
___: T: 98.0 BP: 145/94 L Lying HR: 73 O2 sat: 99% FSBG: L 
arm 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: grossly intact 

=============================
DISCHARGE PHYSICAL EXAMINATION 
=============================
___: T:98.4 BP: 146/103 L Lying HR: 73 O2 sat: 99% FSBG: L 
arm 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: Warm, dry, no rashes or notable lesions.  
Neuro: grossly intact 

 
Pertinent Results:
===============
ADMISSION LABS
===============
___ 10:50PM BLOOD WBC-8.7 RBC-5.35 Hgb-15.6 Hct-44.9 MCV-84 
MCH-29.2 MCHC-34.7 RDW-11.9 RDWSD-35.4 Plt ___
___ 10:50PM BLOOD Glucose-86 UreaN-15 Creat-1.0 Na-142 
K-3.6 Cl-101 HCO3-29 AnGap-12
___ 10:50PM BLOOD cTropnT-<0.01
___ 10:50PM BLOOD Triglyc-105 HDL-39* CHOL/HD-4.2 
LDLcalc-104
___ 10:50PM BLOOD TSH-2.3
___ 06:09AM BLOOD Cortsol-4.5
___ 10:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:45AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG

===============
DISCHARGE LABS 
===============
___ 03:55PM BLOOD WBC-6.5 RBC-5.31 Hgb-15.2 Hct-44.0 MCV-83 
MCH-28.6 MCHC-34.5 RDW-12.0 RDWSD-36.2 Plt ___
___ 03:55PM BLOOD Glucose-91 UreaN-12 Creat-1.0 Na-143 
K-4.0 Cl-102 HCO3-30 AnGap-11
___ 05:45AM BLOOD %HbA1c-5.3 eAG-105

========
IMAGING 
========
CXR - ___
No focal consolidation or pleural effusion seen. Mild prominence 
along the right mediastinum along/adjacent to the course of the 
ascending aorta, underlying lymphadenopathy or dilatation of the 
ascending aorta not excluded. Findings would be further assessed 
on chest CT.

CTA CHEST - ___
1. No evidence of pulmonary embolism or aortic abnormality.
2. Findings suggestive of small airways disease.

RENAL U/S AND ARTERY DOPPLER - ___
Normal renal ultrasound. No renal artery stenosis 

 
Brief Hospital Course:
SUMMARY:
===================
___ is a ___ male with no 
significant past medical history who presented to the ___ ED 
on ___ with 1 week of intermittent chest pain, found to have 
elevated blood pressure concerning for hypertensive emergency. 
He was admitted for further work-up and management; his hospital 
course is detailed below.

ACTIVE ISSUES:
# Chest pain 
# Hypertensive emergency
Patient presents with acute onset, recurrent episodes of chest 
pain that radiates to his left arm and associated with 
diaphoresis for the past week. In the ED, the patient was found 
to have blood pressure of 181/116. ECG was notable for 
incomplete RBBB. Trops negative X3. CTA chest was negative for 
PE, dissection, or coarctation. Renal U/S with doppler showed 
normal cortical echogenicity and corticomedullary 
differentiation with no evidence of renal artery stenosis. TSH, 
morning cortisol, lipid profile and A1C were within normal 
limits. Serum metanephrines pending at discharge. The patient 
endorses consumption of energy drinks, coffee and soda several 
times a day. Toxicology screen negative for alcohol and cocaine. 
In the ED, the patient was given labetalol and nitroglycerin 
that decreased his BP significantly. The patient was started on 
Lisinopril 10 mg once daily and hydrochlorothiazide 12.5 mg once 
daily. He was advised to follow-up with nephrology for work up 
of possible secondary hypertension as well as a primary care 
physician for assessment of blood pressure and a serum chemistry 
check given initiation of the above medications. 

# Right bundle branch block:
ECG was notable for incomplete RBBB on ___ in the setting of 
hypertensive emergency as noted above. 

CHRONIC ISSUES:
=====================
# Headache
Frequent, morning headaches x ___ years. Unrelated to episodes 
of hypertension and chest pain. Concern for sleep apnea vs 
paroxysmal headaches from frequent NSAID use. 

Transitional issues: 
=====================
[] Serum metanephrines pending at discharge
[] Cardiac echo not performed during this admission, will need 
to be scheduled as outpatient
[] Pt instructed to call a primary care doctor and schedule an 
appointment for this week. After discharge, patient scheduled 
himself to see ___, NP. Discharge paperwork to be sent 
to his office for review prior to this appointment
[] Pt instructed to call a the ___ clinic to schedule an 
appointment for further work up of high blood pressure. The 
number is ___.
[] Pt instructed to ask his primary care doctor to schedule an 
outpatient SLEEP STUDY
 
Medications on Admission:
None 
 
Discharge Medications:
1.  Hydrochlorothiazide 12.5 mg PO DAILY 
RX *hydrochlorothiazide 12.5 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3 
2.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- Chest pain
- Hypertensive emergency

SECONDARY:
- Right bundle branch block
- Headaches

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a pleasure to care for you at the ___ 
___. 
 
Why did you come to the hospital?  
-You had high blood pressure that caused you chest pain. 
  
What did you receive in the hospital?  
-You were given medications to decrease your blood pressure 
which also helped your chest pain.
-You were started on two blood pressure medications called 
Lisinopril and hydrochlorothiazide.

What should you do once you leave the hospital?  
-You should continue to take your blood pressure medication as 
instructed (Lisinopril 10 mg once daily and hydrochlorothiazide 
12.5 mg once daily).
-You should start seeing a primary care physician (PCP) to 
follow-up on high blood pressure. If you are interested in 
seeing a doctor here at the ___, please call Health Care 
Associates (HCA) at ___ to schedule an appointment. 
-You should follow-up with a kidney doctor. If no one contacts 
you in ___ business days please call ___ to schedule 
an appointment. 
-Please limit your intake of caffeinated beverages such as 
energy drinks, soda and coffee
-Please speak with your primary care doctor about life style 
changes such as weight loss, exercise and eating a healthy diet, 
as we believe this will help improve your blood pressure.  
   
We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___